US05128465
(R)-2-Dimethylamino-3-Hydroxypropionamide
D-serine amide trifluoroacetate (9.0 g) was dissolved in water (12.6 ml). Under ice cooling, sodium bicarbonate (3.47 g) was added, followed by stirring for 10 minutes. The resulting mixture was added with acetonitrile (66.6 ml) to form a suspension. Under cooling at -5° C., were added a 37% aqueous solution (7.37 g) of formaldehyde and sodium cyanoborohydride (1.74 g), followed by stirring for 1 hour. An insoluble matter deposited was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a column packed with alumina (450 g), thereby obtaining the target product (3.4 g).

reactant | D-serine amide trifluoroacetate | 9.0 g | FC(C(=O)O)(F)F.N[C@H](CO)C(=O)N
reactant | sodium bicarbonate | 3.47 g | C([O-])(O)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 1.74 g | C(#N)[BH3-].[Na+]
solvent | water | 12.6 ml | O | H2O
solvent | acetonitrile | 66.6 ml | C(C)#N | C2H3N
product | (R)-2-Dimethylamino-3-Hydroxypropionamide | 3.4 g | CN([C@@H](C(=O)N)CO)C | C5H12N2O2
